US05736539
1-tert-Butoxycarbonyl-2(S),4-dibenzylpiperazine
The title compound was prepared according to the procedure described in Example 2, Step B, except using 1,3(S)-dibenzylpiperazine-2,5-dione (5.01 g, 17.1 mmol) and lithium aluminum hydride (2.33 g, 61.4 mmol), followed by di-tert-butyl dicarbonate (4.02 g, 18.4 mmol). The crude product was purified by column chromatography on silica gel, eluting with 7.5% ethyl acetate in hexane. The title compound was obtained as a white solid (4.78 g). NMR (300 MHz, CD3OD) δ 7.2-7.4 (5H, m), 7.0-7.2 (5H, m), 4.15 (1H, m), 3.90 (1H, d, J=15 Hz), 3.60 (1H, d, J=15 Hz), 3.15 (1H, m), 2.95 (3H, m), 2.7 (1H, d, J=13 Hz), 2.02 (1H, dt, J=6, 13 Hz), 1.95 (1H, br d), 1.35 (9H, s).

reactant | 1,3(S)-dibenzylpiperazine-2,5-dione | 17.1 mmol, 5.01 g | C(C1=CC=CC=C1)N1C([C@@H](NC(C1)=O)CC1=CC=CC=C1)=O | C18H18N2O2
reactant | lithium aluminum hydride | 61.4 mmol, 2.33 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | di-tert-butyl dicarbonate | 18.4 mmol, 4.02 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | 1-tert-Butoxycarbonyl-2(S),4-dibenzylpiperazine | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C23H30N2O2
